US08017607B2
To the mixture of rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid (4-cyano-phenyl)-amide (56.8 mg, 0.10 mmol) and K2CO3 (excess) in DMSO (2 mL) was added 30% H2O2 (1.0 mL, excess) and the reaction mixture was stirred at rt overnight. The reaction mixture was then diluted with EtOAc washed with sat NH4Cl, water and brine. The solvent was removed and the crude product was triturated with EtOAc and the solid was collected to give rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid (4-carbamoyl-phenyl)-amide (55.9 mg, 95.5%). HRMS (ES+) m/z Calcd for C30H28Cl2F2N4O2+H [(M+H)+]: 585.1630, found: 585.1631.

reactant | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid (4-cyano-phenyl)-amide | 0.10 mmol, 56.8 mg | C(#N)C1=CC=C(C=C1)NC(=O)N1C(C(C(C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F | C30H26Cl2F2N4O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O2 | 1.0 mL | OO | H2O2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid (4-carbamoyl-phenyl)-amide | 55.9 mg, 95.5% | C(N)(=O)C1=CC=C(C=C1)NC(=O)N1C(C(C(C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F | C30H28Cl2F2N4O2
